US04571396
1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-1,8-naphthyridine-3-carboxylic acid
A suspension of 0.7 g (1.6 mmole) of ethyl 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[4-(ethoxycarbonyl)-1-piperazinyl]-1,8-naphthyridine-3-carboxylate, 6 ml of 10% aqueous sodium hydroxide and 2 ml of ethanol was refluxed for three hours. The reaction was filtered through a fiber glass pad to clarify and acidified to pH 1.5 with 6.0 M hydrochloric acid and lyophilized. The residue was dissolved in 10 ml of ammonium hydroxide and the solution concentrated in vacuo. The precipitate which formed was removed by filtration, washed with aqueous ethanol, ether and dried in vacuo to give 0.04 g, mp 274°-276° C.

reactant | ethyl 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[4-(ethoxycarbonyl)-1-piperazinyl]-1,8-naphthyridine-3-carboxylate | 1.6 mmole, 0.7 g | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CCN(CC1)C(=O)OCC)F)=O)C(=O)OCC | C21H25FN4O5
reactant | sodium hydroxide | 6 ml | [OH-].[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-1,8-naphthyridine-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CCNCC1)F)=O)C(=O)O | C16H17FN4O3
